US08404709B2
4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-methylbenzonitrile
1.10 g (4.84 mmol) of 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-methylbenzonitrile are taken up in 30 ml of isopropanol and, after addition of 592 mg (4.84 mmol) of 4-aminopyridin-2(1H)-one, heated at the reflux temperature for 72 h. The mixture is then concentrated, and the residue is again taken up in isopropanol and filtered through silica gel with isopropanol as eluent. The residue after concentration of the filtrate is mixed with a little methanol and crystallized. The precipitated product is filtered off, washed with diethyl ether and dried under high vacuum. 348 mg (22.5% of theory) of the title compound are obtained.

reactant | 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-methylbenzonitrile | 4.84 mmol, 1.10 g | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)C)C(C)=O | C14H13NO2
reactant | 4-aminopyridin-2(1H)-one | 4.84 mmol, 592 mg | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-methylbenzonitrile | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C#N)C=C1)C)=O)C | C19H17N3O2
